US04392973
n-butyl 3,4-dimethylcyclohexyl 2,6-di-t-butyl-4-methylphenyl borate was prepared by successively transesterifying tri-n-butyl borate with 2,6-di-t-butyl-4-methylphenol and 3,4-dimethylcyclohexanol. Tri-n-butyl borate (1 mole) and 2,6-di-t-butyl-4-methylphenol (1 mole) were heated, with stirring, to a temperature of 280° C. and n-butanol collected as a distillate. After seven hours 0.81 moles had been collected and a total of 0.82 moles collected after ten hours. After cooling the reaction vessel and adding 1 mole of 3,4-dimethylcyclohexanol, the reaction mixture was again heated to 280° C. for six hours, after which time a further 0.9 moles of n-butanol had been collected. Volatile components were then removed under reduced pressure (90° C./0.1 mm) to leave a viscous golden yellow liquid as product.

reactant | tri-n-butyl borate | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | 2,6-di-t-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | 3,4-dimethylcyclohexanol | CC1CC(CCC1C)O | C8H16O
reactant | Tri-n-butyl borate | 1 mole | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | 2,6-di-t-butyl-4-methylphenol | 1 mole | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | 3,4-dimethylcyclohexanol | 1 mole | CC1CC(CCC1C)O | C8H16O
solvent | n-butanol | C(CCC)O | C4H10O
solvent | n-butanol | 0.9 moles | C(CCC)O | C4H10O
product | n-butyl 3,4-dimethylcyclohexyl 2,6-di-t-butyl-4-methylphenyl borate | B(OCCCC)(OC1CC(C(CC1)C)C)OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C | C27H47BO3
